US07112638B2
Synthesis of 2-formyl-4,5-diphenylthiophene
POCl3 (80 mmol, 7.32 mL) was added at 0° C. to a solution of 2,3-diphenylthiophene (18 g, 76 mmol) in DMF (18 mL, 0.23 mol). At the end of the addition, the reaction mixture was allowed to warm to room temperature and refluxed for 3 h. Then it was cooled to room temperature and poured into a mixture of ice and a 10% solution of sodium hydroxide in water. The oily precipitate obtained was filtered and washed with cold methanol and hexane. The residue was crystallized. Yield 15 g (75%).

reactant | POCl3 | 80 mmol, 7.32 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2,3-diphenylthiophene | 76 mmol, 18 g | C1(=CC=CC=C1)C=1SC=CC1C1=CC=CC=C1 | C16H12S
reactant | DMF | 0.23 mol, 18 mL | CN(C)C=O | C3H7NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 2-formyl-4,5-diphenylthiophene | C(=O)C=1SC(=C(C1)C1=CC=CC=C1)C1=CC=CC=C1 | C17H12OS
